US08802690B2
To an ice cooled solution of 2-bromoisonicotinic acid (73 g, 0.361 mol) in dichloromethane (500 mL) and methanol (35 g, 1.08 mol) was added 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide hydrochloride (67 g, 0.434 mol) by portions. The mixture was stirred at ambient temperature overnight. Then 120 g silica gel was added and the solvent evaporated. The residue was purified by flash chromatography, eluting with 5% ethyl acetate in petroleum ether to afford 58 g (75%) of methyl 2-bromoisonicotinate as a white solid.

reactant | 2-bromoisonicotinic acid | 0.361 mol, 73 g | BrC=1C=C(C(=O)O)C=CN1 | C6H4BrNO2
reactant | methanol | 1.08 mol, 35 g | CO | CH4O
reactant | 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide hydrochloride | 0.434 mol, 67 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | methyl 2-bromoisonicotinate | 58 g, 75% | BrC=1C=C(C(=O)OC)C=CN1 | C7H6BrNO2
